US06589970B2
Step 5: (1-Bromo-6-{[(1-phenyl-5-propyl-1H-pyrazole-4-carbonyl)-amino]-methyl}-naphthalen-2-yloxy)-acetic acid.
A mixture of (1-bromo-6-{[(1-phenyl-5-propyl-1H-pyrazole-4-carbonyl)-amino]-methyl}-naphthalen-2-yloxy)-acetic acid methyl ester (0.20 g, 0.373 mmol), prepared in the previous step, 1N NaOH (373 μL, 0.373 mmol), 5 mL of water and 60 mL of methanol was stirred at room temperature for 20 h. Starting material was present by TLC. An additional 186 μL (0.186 mmol) of 1N NaOH was added and the reaction stirred at room temperature for 18 h. The reaction was filtered to remove trace solids and acidified with 1N HCl until pH 1 by litmus paper. The methanol was removed under reduced pressure. The solid formed was collected by filtration and dried under reduced pressure to give the title compound (0.13 g, 67%) as an off-white solid, mp 140-145° C.

reactant | (1-bromo-6-{[(1-phenyl-5-propyl-1H-pyrazole-4-carbonyl)-amino]-methyl}-naphthalen-2-yloxy)-acetic acid methyl ester | 0.373 mmol, 0.20 g | COC(COC1=C(C2=CC=C(C=C2C=C1)CNC(=O)C=1C=NN(C1CCC)C1=CC=CC=C1)Br)=O | C27H26BrN3O4
reactant | NaOH | 0.373 mmol, 1N, 373 μL | [OH-].[Na+]
reactant | water | 5 mL | O | H2O
reactant | NaOH | 0.186 mmol, 1N, 186 μL | [OH-].[Na+]
solvent | methanol | 60 mL | CO | CH4O
product | (1-Bromo-6-{[(1-phenyl-5-propyl-1H-pyrazole-4-carbonyl)-amino]-methyl}-naphthalen-2-yloxy)-acetic acid | 0.13 g, 67% | BrC1=C(C=CC2=CC(=CC=C12)CNC(=O)C=1C=NN(C1CCC)C1=CC=CC=C1)OCC(=O)O | C26H24BrN3O4
